US04657911
3-methylamino quinuclidine (IV)
A mixture of 50 g of 3-amino quinuclidine and 40 ml of benzaldehyde in 1000 ml of toluene is brought to reflux for 45 minutes, while eliminating the water formed. Then the solvent is evaporated, the residue is dissolved in 800 ml of methanol and 15 g of potassium borohydride are added within 3 hours while maintaining the temperature at 0° C. Then the solvent is evaporated, the residue is taken up in water, the mixture obtained is extracted with ethyl acetate (or with chloroform), dried on sodium (or magnesium) sulfate, filtered and the filtrate is evaporated. Thus 85 g (yield ≃100%) of the pure expected product are obtained (one spot in TLC) which is in liquid form.

reactant | 3-amino quinuclidine | 50 g | NC1CN2CCC1CC2 | C7H14N2
reactant | benzaldehyde | 40 ml | C(C1=CC=CC=C1)=O | C7H6O
reactant | water | O | H2O
solvent | toluene | 1000 ml | C1(=CC=CC=C1)C | C7H8
product | 3-methylamino quinuclidine | CNC1CN2CCC1CC2 | C8H16N2
